US04751223
N,N-Dimethyl-7-(methylamino)carbonyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine hydrochloride
To a solution of 6.26 g of N,N-dimethyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine in 125 ml of dry toluene was added 2.36 ml of methyl isocyanate, via syringe, under nitrogen. After stirring the mixture overnight at room temperature it was diluted with ether (500 ml) and the resulting solution was washed with water (2×250 ml) and saturated sodium chloride solution and thereafter dried over anhydrous sodium sulfate. Filtration and concentration in vacuo afforded a foam weighing 6.72 g. This material was dissolved in 5:1 ether/methanol solution (approx. 150 ml) and treated dropwise with hydrogen chloride-saturated ether solution with stirring. Crude salt formed as an insoluble oil on the side wall of the flask. After a few minutes of stirring, the liquid phase was decanted and fresh ether used to triturate the crude salt to a solid. Filtration and drying in vacuo afforded 6.72 g of solid. This material was combined with some crude salt prepared in an analogous manner and dissolved in 25 ml of boiling isopropanol. The hot solution was gravity-filtered, allowed to cool and stand at room temperature for a few minutes and then was refrigerated overnight. The recrystallized salt was filtered, washed twice with cold isopropanol, and ether and dried in vacuo to afford 4.7 g of crystalline solid, m.p. 233°-235° C.

reactant | N,N-dimethyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine | 6.26 g | CN(CCCC1NC2=C(N3C4=C1C=CC=C4CC3)C=CC=C2)C | C20H25N3
reactant | methyl isocyanate | 2.36 ml | CN=C=O | C2H3NO
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether methanol | approx. 150 ml | CCOCC.CO
product | N,N-Dimethyl-7-(methylamino)carbonyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine hydrochloride | 6.72 g | Cl.CN(CCCC1N(C2=C(N3C4=C1C=CC=C4CC3)C=CC=C2)C(=O)NC)C | InChI=1S/C22H28N4O.ClH/c1-23-22(27)26-18(12-7-14-24(2)3)17-9-6-8-16-13-15-25(21(16)17)19-10-4-5-11-20(19)26;/h4-6,8-11,18H,7,12-15H2,1-3H3,(H,23,27);1H
